US04374220
Preparation of N,N'-(p-phenylene)-bis[3,4,5,6-tetrabromophthalimide]:
108 gms (1.0 mole) of p-phenylenediamine was dissolved in 1 liter of warm NMP under a nitrogen atmosphere and the solution filtered to remove suspended particles. This filtered solution was then added to a similarly prepared filtered solution of 928 gms (2.0 moles) of tetrabromophthalic anhydride in 2 liters of warm NMP in the apparatus described in Example 2. A mildly exothermic reaction took place and the mixture was further heated while stirring. At about 145° C., precipitation began. The quantity of brown precipitate increased with continued heating and a further 2 liters of NMP was added to facilitate stirring, the temperature being raised to 200° C. and maintained for 2 hours, before the mixture was allowed to cool. The precipitate was collected, washed with NMP, roughly dried and washed with acetone. The material was then stirred well with acetone, filtered and again washed before being dried overnight at 150° C. under vacuum. The product was a fine, rusty-gold precipitate with a melting point above 500° C. The yield was 486 gms (49%), the infrared spectrum having the characteristic imide structure, absorption bands at 1712s and 1765w cm-1. The compound was insoluble in water, methanol, ether, xylene, dimethyl sulphoxide and dimethyl acetamide.

reactant | p-phenylenediamine | 1.0 mole, 108 gms | C1=CC(=CC=C1N)N | C6H8N2
reactant | tetrabromophthalic anhydride | 2.0 moles, 928 gms | BrC=1C(=C(C(=C2C1C(=O)OC2=O)Br)Br)Br | C8Br4O3
solvent | NMP | 1 liter | CN1CCCC1=O | C5H9NO
solvent | NMP | 2 liters | CN1CCCC1=O | C5H9NO
product | N,N'-(p-phenylene)-bis[3,4,5,6-tetrabromophthalimide] | C1(=CC=C(C=C1)N1C(C=2C(C1=O)=C(C(=C(C2Br)Br)Br)Br)=O)N2C(C=1C(C2=O)=C(C(=C(C1Br)Br)Br)Br)=O | C22H4Br8N2O4
